US09446348B2
1-(2,3-Dihydroxypropyl)-3-benzylimidazolium Chloride (RTIL 6)
1-Benzylimidazole (3.95 g, 25.0 mmol) and 3-chloro-1,2-propanediol (2.76 g, 25.0 mmol) were stirred in a 130° C. oil bath for 48 h, after which the flask was placed under vacuum and stirring continued at 130° C. for another 48 h. The residue was then dissolved in CH3OH and transferred to a tared flask and concentrated to afford the product as a viscous brown oil (6.50 g, 97%). 1H NMR: δH ppm (400 MHz; DMSO-d6) 3.18-3.30 (m, 1H) 3.37-3.49 (m, 1H) 3.73-3.86 (m, 1H) 4.15 (dd, J=13.74, 7.69 Hz, 1H) 4.36 (dd, J=13.74, 3.11 Hz, 1H) 5.21 (t, J=5.50 Hz, 1H) 5.49 (s, 2H) 5.62 (d, J=5.50 Hz, 1H) 7.32-7.50 (m, 5H) 7.80 (t, J=1.83 Hz, 1H) 7.86 (t, J=1.83 Hz, 1H) 9.49 (t, J=1.56 Hz, 1H).

reactant | 1-Benzylimidazole | 25.0 mmol, 3.95 g | C(C1=CC=CC=C1)N1C=NC=C1 | C10H10N2
reactant | 3-chloro-1,2-propanediol | 25.0 mmol, 2.76 g | ClCC(CO)O | C3H7ClO2
solvent | CH3OH | CO | CH4O
product | 1-(2,3-Dihydroxypropyl)-3-benzylimidazolium Chloride | 6.50 g, 97% | [Cl-].OC(C[N+]1=CN(C=C1)CC1=CC=CC=C1)CO | InChI=1S/C13H17N2O2.ClH/c16-10-13(17)9-15-7-6-14(11-15)8-12-4-2-1-3-5-12;/h1-7,11,13,16-17H,8-10H2;1H/q+1;/p-1
